US07220862B2
(R)-2-Amino-3-(5-bromo-2-oxo-2,3-dihydro-benzooxazol-6-yl)-propionic acid methyl ester
Trimethylsilyliodide (73 mL, 0.73 mmol) was added to a solution of azotropically dried (R)-2-benzyloxycarbonylamino-3-(5-bromo-2-oxo-2,3-dihydro-benzooxazol-6-yl)-propionic acid methyl ester (146 mg, 0.33 mmol) in acetonitrile (10 mL) at room temperature, and the resulting mixture was stirred at room temperature for 2 h. Triethylamine (0.12 mL) was added and the mixture was stirred at room temperature for 15 min. The solvents were removed in vacuo, and the residue was extracted with ethyl acetate. The combined organics were washed with sodium bicarbonate and brine, dried over sodium sulfate and filtered. Solvents were removed and the residue was used directly in the next step. Mass spec. 315.10 (MH)+.

reactant | Trimethylsilyliodide | 0.73 mmol, 73 mL | C[Si](C)(C)I | C3H9ISi
reactant | (R)-2-benzyloxycarbonylamino-3-(5-bromo-2-oxo-2,3-dihydro-benzooxazol-6-yl)-propionic acid methyl ester | 0.33 mmol, 146 mg | COC([C@@H](CC1=CC2=C(NC(O2)=O)C=C1Br)NC(=O)OCC1=CC=CC=C1)=O | C19H17BrN2O6
reactant | Triethylamine | 0.12 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | (R)-2-Amino-3-(5-bromo-2-oxo-2,3-dihydro-benzooxazol-6-yl)-propionic acid methyl ester | COC([C@@H](CC1=CC2=C(NC(O2)=O)C=C1Br)N)=O | C11H11BrN2O4
